US08022062B2
(2-Fluoro-4-phenoxy-phenyl)-methanol:
Mix under nitrogen atmosphere 2-(2-fluoro-4-phenoxy-benzyloxy)-tetrahydro-pyran (2.05 g, 6.8 mmol), methanol (60 mL) and p-toluenesulfonic acid monohydrate (260 mg, 1.35 mmol). Stir at ambient temperature for 16 h. Dilute with EtOAc. Wash with saturated aqueous NaHCO3. Separate the organic layer, dry over Na2SO4 and concentrate in vacuo to give the desired intermediate (1.41 g, 95%). MS (ES+) m/z: 201 (M−OH)+.

reactant | 2-(2-fluoro-4-phenoxy-benzyloxy)-tetrahydro-pyran | 6.8 mmol, 2.05 g | FC1=C(COC2OCCCC2)C=CC(=C1)OC1=CC=CC=C1 | C18H19FO3
reactant | methanol | 60 mL | CO | CH4O
reactant | p-toluenesulfonic acid monohydrate | 1.35 mmol, 260 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Fluoro-4-phenoxy-phenyl)-methanol | 1.41 g, 95% | FC1=C(C=CC(=C1)OC1=CC=CC=C1)CO | C13H11FO2
